US07244730B2
(Step 7) 1-[3-Amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone
Iron powder (365 g) was added to a mixture of 1-[3-(tert-butyl)-4-methoxy-5-nitrophenyl]-1-ethanone (850 g), ammonium chloride (723 g), ethanol (4 l) and water (1 l) at 70° C. to 80° C. over a period of 1 hour. The reaction mixture was cooled to room temperature and then poured into a mixture of ice water and ethyl acetate and filtered through celite. The organic layer of the mother liquor was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the resulting crystals were filtered off to yield the title compound (362 g) as white crystals.

reactant | 1-[3-(tert-butyl)-4-methoxy-5-nitrophenyl]-1-ethanone | 850 g | C(C)(C)(C)C=1C=C(C=C(C1OC)[N+](=O)[O-])C(C)=O | C13H17NO4
reactant | ammonium chloride | 723 g | [Cl-].[NH4+]
reactant | ethanol | 4 l | C(C)O | C2H6O
reactant | water | 1 l | O | H2O
catalyst | Iron | 365 g | [Fe] | Fe
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-Amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone | 362 g | NC=1C=C(C=C(C1OC)C(C)(C)C)C(C)=O | C13H19NO2
